US06982348B2
1) 2,2,3,3-tetrafluoro-1-(3-methylphenyl)propane-1-one
While stirring a solution of magnesium (14.1 g, 579 mmol) and iodine (one crumb) in diethyl ether (100 ml), 3-methylbromobenzene (90.0 g, 526 mmol) in diethyl ether (200 ml) was dropwise added at room temperature. After completion of the dropwise addition, the mixture was stirred overnight at room temperature. The reaction solution was cooled to −78° C. and a solution of 2,2,3,3-tetrafluoropropionic acid (25.61 g, 175.4 mmol) in diethyl ether (100 ml) was dropwise added, and the mixture was heated under reflux for 4 hrs. To the reaction solution was dropwise added 1N hydrochloric acid under ice-cooling. The diethyl ether layer was separated, and the aqueous layer was extracted with diethyl ether. The recovered diethyl ether solution was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=15/1) to give the objective substance.

reactant | magnesium | 579 mmol, 14.1 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-methylbromobenzene | 526 mmol, 90.0 g | CC=1C=C(C=CC1)Br | C7H7Br
reactant | 2,2,3,3-tetrafluoropropionic acid | 175.4 mmol, 25.61 g | FC(C(=O)O)(C(F)F)F | C3H2F4O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,2,3,3-tetrafluoro-1-(3-methylphenyl)propane-1-one | FC(C(=O)C1=CC(=CC=C1)C)(C(F)F)F | C10H8F4O
